US07160875B2
a) (2S)-2-Fluoro-2-methyl-N-[(S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-malonamic acid ethyl ester
In an analogous manner to that described in Example 1 a), the condensation of (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one and (2S)-2-fluoro-2-methyl-malonic acid mono ethyl ester (96.9% e.e.) yielded the title compound as a white solid; MS: m/e=371 (M+H)+. The (2S)-2-fluoro-2-methyl-malonic acid mono ethyl ester was obtained by stereoselective hydrolysis of the corresponding diester by Candida cylindracea hydrolase following the procedure described in J. Org. Chem. 1986, 51, 1003-6.

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | (2S)-2-fluoro-2-methyl-malonic acid mono ethyl ester | C(C)OC([C@@](C(=O)O)(C)F)=O | C6H9FO4
product | (2S)-2-Fluoro-2-methyl-N-[(S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-malonamic acid ethyl ester | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C)F)=O | C20H19FN2O4
